US07745452B2
To a solution of 4-allyl-6-chloro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (22.1 g, 55.4 mmol) in ethyl acetate (450 mL) and under a nitrogen atmosphere was added 10% palladium on carbon (224 mg). A balloon of hydrogen was bubbled into the stirring mixture. The reaction was then stirred over night under an atmosphere of hydrogen. The reaction was purged with nitrogen, filtered through a pad of celite and the filtrate concentrated in vacuo to give 22.3 gm (100%) of (±)-6-chloro-4-(4-fluorophenyl)-4-propyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as a white solid. Further purification by chiral chromatography (ChiralPak AD packing, 30% iPrOH/heptane with DEA modifier at 1.0 mL/L) followed by crystallization from hexanes provided individual enantiomers of 6-chloro-4-(4-fluorophenyl)-4-propyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (Peak 1 and Peak 2). Data for Peak 2: 1H NMR (d6-DMSO, 400 MHz) δ 10.02 (s, 1H); 7.43 (m, 2H); 7.20 (m, 3H); 6.84 (d, J=8.61 Hz, 1H); 6.59 (d, J=2.19 Hz, 1H); 3.80 (q, J=9.34 Hz, 2H); 2.33 (m, 2H); 1.24 (m, 1H); 0.94 (m, 1H); 0.89 (t, J=6.87 Hz, 3H). Exact Mass (Electrospray, M+H): Calc'd, 401.1039; Found, 401.1040. [α]D=−6.7° (c0.0045, MeOH). Optical rotation for Peak 1: [α]D=+5.2° (c0.0062, MeOH).

reactant | 4-allyl-6-chloro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 55.4 mmol, 22.1 g | C(C=C)C1(N(C(NC2=CC=C(C=C12)Cl)=O)CC(F)(F)F)C1=CC=C(C=C1)F | C19H15ClF4N2O
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 224 mg | [Pd] | Pd
product | (±)-6-chloro-4-(4-fluorophenyl)-4-propyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 22.3 gm, 100% | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(CCC)C1=CC=C(C=C1)F | C19H17ClF4N2O
